US06846827B1
4-[2-Methyl-5-(3-morpholinobenzamido)anilino]pyrimidine
10% Palladium-on-carbon (0.02 g) was added to a mixture of 4-[2-methyl-5-(3-morpholinobenzamido)anilino]-6-chloropyrimidine (0.169 g), ammonium formate (0.165 g) and ethanol (5 ml) and the resultant mixture was stirred and heated to reflux for 18 hours. The catalyst was removed by filtration and the filtrate was evaporated. The residue was partitioned between methylene chloride and water and the organic phase was washed with brine, dried over sodium sulphate and evaporated. There was thus obtained the title compound (0.145 g); NMR Spectrum: (DMSOd6) 2.23 (s, 3H), 3.24 (m, 4H), 3.83 (m, 4H), 6.68 (m, 1H), 7.2 (m, 1H), 7.3 (m, 1H), 7.43 (m, 2H), 7.5 (m, 1H), 7.61 (m, 1H), 7.88 (m, 1H), 8.28 (m, 1H), 8.57 (s, 1H), 9.06 (s, 1H), 10.18 (s, 1H); Mass Spectrum: M+H+ 390.

reactant | 4-[2-methyl-5-(3-morpholinobenzamido)anilino]-6-chloropyrimidine | 0.169 g | CC1=C(NC2=NC=NC(=C2)Cl)C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C22H22ClN5O2
reactant | ammonium formate | 0.165 g | C(=O)[O-].[NH4+]
catalyst | Palladium-on-carbon | 0.02 g | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-[2-Methyl-5-(3-morpholinobenzamido)anilino]pyrimidine | 0.145 g | CC1=C(NC2=NC=NC=C2)C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C22H23N5O2
